US08106043B2
tert-Butyl 4-(4-fluoro-2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate:
To a stirred solution of triphenylphosphine (668 mg, 2.55 mmol) and imidazole (0.693 mL, 5.09 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was added iodine (732 mg, 2.88 mmol). The resulting mixture was stirred at 0° C. for 5 minutes. To this mixture was then added tert-butyl 4-(4-fluoro-2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate (705 mg, 1.697 mmol) as a solution in tetrahydrofuran (5 mL), and the resulting mixture was stirred at room temperature for 20 minutes. The mixture was then diluted with ethyl acetate and washed with saturated sodium carbonate, water, saturated sodium thiosulfate, and brine. The organic phase was dried, filtered, concentrated, and then chromatographed in 1:9 ethyl acetate:hexanes to afford the desired product (398 mg, 44.6%). 1H NMR (DMSO-d6) δ 7.53 (d, J=11.7 Hz, 1H), 7.27 (d, J=6.6 Hz, 1H), 5.10 (d, J=8.1 Hz, 1H), 3.96-3.85 (m, 2H), 3.64-3.52 (m, 1H), 3.50-3.41 (m, 2H), 3.39-3.32 (m, 2H), 2.99-2.81 (m, 2H), 1.91-1.81 (m, 2H), 1.48-1.32 (m, 11H); ESI-MS (m.z, %): 470 (100), 426 (81).

reactant | triphenylphosphine | 2.55 mmol, 668 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 5.09 mmol, 0.693 mL | N1C=NC=C1 | C3H4N2
reactant | iodine | 2.88 mmol, 732 mg | II | I2
reactant | tert-butyl 4-(4-fluoro-2-(2-hydroxyethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 1.697 mmol, 705 mg | FC1=CC(=C(C=C1[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C)SCCO | C18H26FN3O5S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(4-fluoro-2-(2-iodoethylthio)-5-nitrophenylamino)piperidine-1-carboxylate | 398 mg, 44.6% | FC1=CC(=C(C=C1[N+](=O)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C)SCCI | C18H25FIN3O4S
